US07268230B2
4-[(4-Fluoro-1H-indol-5-yl)oxy]-7-methoxy-6-(piperidin-4-ylmethoxy)quinazoline (210 mg, 0.50 mmol) was suspended in dichloromethane (7 ml) and diisopropylethylamine (104 μl, 0.60 mmol) and acetyl chloride (42 μl, 0.60 mmol) were added. All solid material went into solution. The mixture was stirred at ambient temperature overnight. The mixture was washed with brine, followed by saturated aqueous sodium hydrogen carbonate, dried (MgSO4) and concentrated under reduced pressure. The residue was purified by column chromatography eluting with methylene chloride/methanol (98/2) to give 6-[(1-acetylpiperdin-4-yl)methoxy]-4-[(4-fluoro-1H-indol-5-yl)oxy]-7-methoxyquinazoline (146 mg, 63%) as a white foam.

reactant | 4-[(4-Fluoro-1H-indol-5-yl)oxy]-7-methoxy-6-(piperidin-4-ylmethoxy)quinazoline | 0.50 mmol, 210 mg | FC1=C2C=CNC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OCC1CCNCC1)OC | C23H23FN4O3
reactant | diisopropylethylamine | 0.60 mmol, 104 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 0.60 mmol, 42 μl | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 6-[(1-acetylpiperdin-4-yl)methoxy]-4-[(4-fluoro-1H-indol-5-yl)oxy]-7-methoxyquinazoline | 146 mg, 63% | C(C)(=O)N1CCC(CC1)COC=1C=C2C(=NC=NC2=CC1OC)OC=1C(=C2C=CNC2=CC1)F | C25H25FN4O4
